US07572820B2
A. Methyl 2-[3-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylate
Synthesized as described in Example 310D using methyl 2-bromo-1,3-thiazole-5-carboxylate and [3-(trifluoromethyl)phenyl]boronic acid: 1H NMR (400 MHz, CDCl3) δ 8.47 (s, 1H), 8.28 (s, 1H), 8.16 (d, J=7.8 Hz, 1H), 7.75 (d, J=7.8 Hz, 1H), 7.62 (t, J=7.8 Hz, 1H), 3.96 (s, 3H).

reactant | methyl 2-bromo-1,3-thiazole-5-carboxylate | BrC=1SC(=CN1)C(=O)OC | C5H4BrNO2S
reactant | [3-(trifluoromethyl)phenyl]boronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | Methyl 2-[3-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylate | FC(C=1C=C(C=CC1)C=1SC(=CN1)C(=O)OC)(F)F | C12H8F3NO2S
